US09085606B2
Preparation of 3-bromo-5-tert-butyl-2-[(2-methoxyethoxy)methoxy]benzaldehyde
A mixture of 3-bromo-5-(tert-butyl)-2-hydroxybenzaldehyde (3.99 g, 15.51 mmol) and anhydrous potassium carbonate (2.36 g, 17.10 mmol) in anhydrous DMF (20.0 mL) was stirred under nitrogen in a water bath (20° C.) to give an orange-yellow suspension. After stirring for 20 min, 2-methoxyethoxymethyl chloride (2.00 mL, 17.66 mmol, technical grade) was added drop wise (30 min) to above suspension while maintaining an internal temperature of 20° C. The reaction mixture was stirred at room temperature for 2.5 h to give a yellow-orange suspension. The reaction mixture was poured into ice-water (150 mL) and stirred at room temperature to give a yellow oily liquid, no solid formation was observed. After 30 min of stirring, the reaction mixture was extracted with dichloromethane (2×100 mL). The organic layer was removed, washed with water (1×50 mL) and dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to give a very pure product as an orange viscous liquid (5.40 g). 1H NMR (400 MHz; CDCl3): δ 1.29 (s, 9H, (CH3)3C—), 3.33 (s, 3H, CH3—O—), 3.53 (M, 2H, —CH2—CH2—O—), 3.98 (M, 2H, —CH2—CH2—O—), 5.25 (s, 2H, —O—CH2—O—), 7.79 (s, 2H, H-4 and H-6), 10.28 (s, 1H, —CHO). The 1H NMR spectrum of the sample was consistent with the suggested structure of the product.

reactant | 3-bromo-5-(tert-butyl)-2-hydroxybenzaldehyde | 15.51 mmol, 3.99 g | BrC=1C(=C(C=O)C=C(C1)C(C)(C)C)O | C11H13BrO2
reactant | potassium carbonate | 17.10 mmol, 2.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethoxymethyl chloride | 17.66 mmol, 2.00 mL | COCCOCCl | C4H9ClO2
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | 3-bromo-5-tert-butyl-2-[(2-methoxyethoxy)methoxy]benzaldehyde | 5.40 g | BrC=1C(=C(C=O)C=C(C1)C(C)(C)C)OCOCCOC | C15H21BrO4
